US06593350B2
2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole
A solution of 0.55 g (1.5 mmole) of [(2R)-8-methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate and 0.50 g (2.5 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1 H-indole in 6.0 mL of DMSO was heated at 65-7° C. for 4 hours. The mixture was diluted with 300 mL of ethyl acetate, washed with 200 ml portions of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on silica gel with 1% methanol in chloroform as eluant to give 0.21 g of the (S)-enantiomer of the title compound as a yellow solid, m.p. 212-215° C.

reactant | [(2R)-8-methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate | 1.5 mmole, 0.55 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=C(NC3=CC2)C)O1 | C19H19NO5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1 H-indole | 2.5 mmole, 0.50 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 6.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-methyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C(=C3C=C(NC3=CC2)C)O1 | C25H25N3O2
